US07825253B2
2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinoline-5-carbaldehyde (example 21, step A+B, 150 mg, 0.564 mmol) was dissolved in 5 mL ethylendichloride and acetic acid (136 mg, 2.27 mmol) was added. The reaction mixture was stirred at room temperature for 1 h. Sodium triacetoxy borohydride (258 mg, 1.22 mmol) was added and stirring was continued overnight. The reaction mixture was quenched by addition of 50 mL water. The mixture was extracted three times with dichloromethane (50 mL each). The organic phases ware pooled, dried with sodium sulfate, filtered and evaporated. The residue was purified by flash chromatography on silica gel (cyclohexane/ethyl acetate 100:0->50:50 gradient). {2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-methanol was obtained as a light brown solid (105 mg, 69%), MS: m/e=269.5 (M+H+).

reactant | 2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinoline-5-carbaldehyde | CC1=CC=C(O1)CNC1=NC=2C=CC=C(C2C=C1)C=O | C16H14N2O2
reactant | acetic acid | 2.27 mmol, 136 mg | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxy borohydride | 1.22 mmol, 258 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ethylendichloride | 5 mL | C(CCl)Cl | C2H4Cl2
product | {2-[(5-Methyl-furan-2-ylmethyl)-amino]-quinolin-5-yl}-methanol | CC1=CC=C(O1)CNC1=NC2=CC=CC(=C2C=C1)CO | C16H16N2O2
